US05712300
Preparation of α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-N-benzyloxy-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide
A cold (0° C.) solution of α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic acid (586 mg, 1.20 mmol) in 2:1 CH2Cl2 /DMF (7.5 mL) is treated with HOBT (195 mg, 1.44 mmol), EDC (276 mg, 1.44 mmol), and 4-methylmorpholine (158 μL, 1.44 mmol). The ice bath is removed, and after 1 hour, O-benzylhydroxylamine HCl (287 mg, 1.80 mmol) and a second portion of 4-methylmorpholine (198 μL, 1.80 mmol) are added. The solution is stirred overnight at room temperature under N2. The solution is diluted with H2O (25 mL) and extracted into CH2Cl2 (3×50 mL). The extracts are combined, dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to provide an oil. The residual oil is reconstituted in EtOAc (50 mL) and washed with 1N HCl (10 mL), 1N NaOH (10 mL), H2O (10 mL), and brine (10 mL). The organic layer is dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to give 603 mg of a white foam. The material is purified by silica gel chromatography (25 g SG; EtOAc) to provide 433 mg (62%) of the title compound as a white, amorphous solid:

reactant | α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic acid | 1.20 mmol, 586 mg | FC=1C=C(C(=O)NCCC(C(=O)O)C2(C(N(CC2)CCC2=CC=CC=C2)=O)CCCO)C=CC1F | C26H30F2N2O5
reactant | HOBT | 1.44 mmol, 195 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.44 mmol, 276 mg
reactant | 4-methylmorpholine | 1.44 mmol, 158 μL | CN1CCOCC1 | C5H11NO
reactant | O-benzylhydroxylamine HCl | 1.80 mmol, 287 mg | Cl.C(C1=CC=CC=C1)ON
reactant | 4-methylmorpholine | 1.80 mmol, 198 μL | CN1CCOCC1 | C5H11NO
solvent | H2O | 25 mL | O | H2O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 DMF | 7.5 mL | C(Cl)Cl.CN(C)C=O
product | α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-N-benzyloxy-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetamide | 603 mg | FC=1C=C(C(=O)NCCC(C(=O)NOCC2=CC=CC=C2)C2(C(N(CC2)CCC2=CC=CC=C2)=O)CCCO)C=CC1F | C33H37F2N3O5
